### ISSUE TITLE
Variable of as-pattern not defeq to pattern

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#501]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When pattern-matching using `x@pat`, the expressions `x` and `pat` are not defeq in the match arm.

Possibly related to #471.

### Steps to Reproduce

```lean
structure S where
  x : Bool
  y : Nat

def S.Z (s : S) : Type :=
  if s.x then Nat else Int

def S.z : (s : S) → s.Z
  | s@{ x := true, .. } => s.y
  | s@{ x := false, .. } => Int.ofNat s.y

def S.a : (s : S) → s.Z
  | s => s.z

def S.b : (s : S) → s.Z
  | s@{ x := true, .. } => s.z
-- type mismatch
--   z s
-- has type
--   Z s : Type
-- but is expected to have type
--   Z s@{ x := true, y := x✝ } : Type
  | s => s.z

def S.c : (s : S) → s.Z
  | s@{ x := true, .. } =>
    let y : Nat := s.z
-- type mismatch
--   z s
-- has type
--   Z s : Type
-- but is expected to have type
--   Nat : Type
    y
  | s => s.z
```

The definition `S.a` compiles, but `S.b` doesn't (even though it has a more precise pattern), and `S.c` doesn't either (because `s.Z` doesn't reduce to `Nat`).  I would expect all of the three definitions to work.

### Versions

Nightly from May 31

**Comment by leodemoura** [comment]
I am trying to understand how important this feature is. Did it show up in real examples? Is it a recurrent issue?
In the current encoding, we are using for `x@pat`, the expressions `x` and `pat` are not defeq.
For example, the "matcher" function created for `S.b` is of the form.
```lean
def S.b.match_1 : 
  (motive : S → Sort u) → (x : S) 
  → ((s : S) → (y : Nat) → motive s@{ x := true, y := y })  -- first alternative
  → ((s : S) → motive s)   -- second alternative
  → motive x :=
```
We don't want to revert to the approach used in Lean 3, where the "as"-patterns are eagerly expanded by the compilation process.
To address this issue, we would need a new encoding, but this affects a few modules.

**Comment by gebner** [comment]
> Did it show up in real examples?

Yes, I minimized it from an actual issue I encountered:
```lean
  | { ty := none, fvarId := fvarId, userName := userName } :: rest =>
    let decl : PatVarDecl := { ty := none, fvarId := fvarId, userName := userName }
    ... decl.fvar ...
```
The issue here is that `decl.fvar` is either a `Q(Level)` or an `Q(Expr)` depending on `decl.ty`, and it needs to be a `Q(Level)` here.
https://github.com/gebner/quote4/blob/e7359eafb370408144483b6d564c5dc311d8111f/Qq/Match.lean#L47-L49

You can also see the workaround that I used.  It's doable but also a lot of repetition (and I don't see how I could extract it to a macro that is not specific for this single structure).

> Is it a recurrent issue?

So far I've run into it once.  I think this issue will recur *if* people use dependently typed data structures.  It's also easy to run into when using matches for proofs:

```lean
theorem zero_pow : ∀ {m : Nat}, m > 0 → 0 ^ m = 0
  | 0, h => by cases h
  | _+1, _ => rfl

theorem pow_nonneg : ∀ m : Nat, 0 ^ m ≥ 0
  | 0 => rfl
  | m@(_+1) => by
    have : m > 0 := Nat.zeroLtSucc _ -- ouch!
    rw [zero_pow this] -- ouch!
    rfl
```

> For example, the "matcher" function created for S.b is of the form.

With a new encoding, you mean something like this for the first type, right?
```lean
((y : Nat) → (s : S) → s = { x := true, y := y } → motive s)
```
And then the match elaborator has to create let-bindings and rewrites instead of just calling mkLambdaFVars, etc. I see how this would be a lot of work to change.

**Comment by leodemoura** [comment]
The `S.b` definition above can be written as
```lean
def S.b : (s : S) → s.Z
  | s@h:{ x := true, .. } => h ▸ s.z
  | s => s.z
```

**Comment by marcusrossel** [comment]
Another example reduced from a real-world use case:

```
constant ID : Type _

-- A `Reactor` contains "things" identified by an `ID`. It also contains other `Reactor`s, thereby giving us a tree structure of reactors.
inductive Reactor 
  | mk 
    (things : ID → Option Nat) 
    (nested : ID → Option Reactor)

-- Structure projections.
def Reactor.things : Reactor → ID → Option Nat     | mk t _ => t
def Reactor.nested : Reactor → ID → Option Reactor | mk _ n => n

-- A `Lineage` is supposed to express a "path" within a reactor tree. 
-- E.g. a `Lineage rtr i` captures a path from the root reactor `rtr` to some thing identified by ID `i`.
inductive Lineage : Reactor → ID → Type _
  | thing {rtr i} : (∃ t, rtr.things i = some t) → Lineage rtr i
  | nested {rtr' i' rtr i} : (Lineage rtr' i) → (rtr.nested i' = some rtr') → Lineage rtr i

-- The `Lineage.container` function is supposed to return the reactor (along with its ID) that is the immediate parent of the thing reached by the lineage.
-- We therefore need to check "two steps deep":
def Lineage.container {rtr i} : Lineage rtr i → (Option ID × Reactor)
  -- If the lineage is still two or more "nestings" deep, perform a recursive call on the nested lineage.
  | .nested l@(.nested ..) _ => l.container
  -- If the lineage is nested only one layer deep, the nested lineage (`: Lineage rtr' i`) contains the thing identified by `i`.
  -- Therefore `rtr'` is the container, which in the context of `rtr` is identified by `i'`.
  | @nested rtr' i' .. => (i', rtr')
  -- If the lineage is not nested at all, we know that the root reactor `rtr` is the container, and we return no ID.
  | _ => (none, rtr)
```
